US06660751B1
4-(Benzoxazol-2-yl)piperidine (D20)
The title compound was prepared from isonipecotic acid and 2-aminophenol using the method described in Description 14. MH+ 203.

reactant | isonipecotic acid | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
product | 4-(Benzoxazol-2-yl)piperidine | O1C(=NC2=C1C=CC=C2)C2CCNCC2 | C12H14N2O
